US04985419
A mixture of 10-[(2RS)-1-methylamino-2-propyl]-phenothiazinecarbonitrile (4.55 g), 2-iodopropane (2 cc) and sodium hydrogen carbonate (1.9 g) in dry dimethylformamide (45.5 cc) is heated for 6 hours to a temperature in the region of 140° C. After cooling, the reaction mixture is diluted with ethyl acetate (200 cc), washed with distilled water (4×30 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The oily yellow residue is purified by chromatography on a column (height: 25 cm; diameter: 4 cm) of silica gel (0.04-0.063 mm) with a slight excess pressure of nitrogen (40 kPa) and with a mixture (97.5:2.5 by volume) (1 liter) of methylene chloride and methanol, and collecting 60-cc fractions. Fractions 4 to 12 are combined and concentrated to dryness under reduced pressure (30 mm Hg; kPa) at 40 ° C. The oily yellow residue (2.9 g) is purified again by chromatography on a column (height: 25 cm; diameter: 4 cm) of silica gel (0.2-0.063 mm), eluting with a mixture (80:20 by volume) (1 liter) of cyclohexane and ethyl acetate and collecting 60-cc fractions. Fractions 4 to 12 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. 10-{(2RS)-1-[N-Methyl-N-(1-methylethyl) amino]-2-propyl}-2-phenothiazinecarbonitrile (2.2 g) is thereby obtained in the form of a yellow oil.

reactant | 10-[(2RS)-1-methylamino-2-propyl]-phenothiazinecarbonitrile | 4.55 g | CNCC(C)N1C2=CC=CC=C2SC=2C=CC=C(C12)C#N | C17H17N3S
reactant | 2-iodopropane | 2 cc | IC(C)C | C3H7I
reactant | sodium hydrogen carbonate | 1.9 g | C(O)([O-])=O.[Na+]
reactant | dimethylformamide | 45.5 cc | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 cc | C(C)(=O)OCC | C4H8O2
product | 10-{(2RS)-1-[N-Methyl-N-(1-methylethyl) amino]-2-propyl}-2-phenothiazinecarbonitrile | 2.2 g | CN(C(C)C)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C20H23N3S
